US07425555B2
Intermediate 39: 1H-Pyrrole-2-carboxylic acid, 1-methyl-2-(4-iodobenzoyl)hydrazide
1H-Pyrrole-2-carboxylic acid, 1-methyl-hydrazide (139 mg), EDC (230 mg), HOBt (162 mg), 4-iodobenzoic acid (248 mg) and DIPEA (0.21 ml) were mixed in DMF (3 ml). The reaction was heated at 40° C. for 6 hours, the DMF was evaporated under vacuum and the residue applied to a bond-elut (silica) and eluted with an ethyl acetate/cyclohexane gradient to give, after evaporation of the solvent, 1H-pyrrole-2-carboxylic acid, 1-methyl-2-(4-iodobenzoyl)hydrazide.

reactant | 1H-Pyrrole-2-carboxylic acid, 1-methyl-hydrazide | 139 mg | CN(N)C(=O)C=1NC=CC1 | C6H9N3O
reactant | HOBt | 162 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-iodobenzoic acid | 248 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | DIPEA | 0.21 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EDC | 230 mg
product | 1H-Pyrrole-2-carboxylic acid, 1-methyl-2-(4-iodobenzoyl)hydrazide | CN(NC(C1=CC=C(C=C1)I)=O)C(=O)C=1NC=CC1 | C13H12IN3O2
